US06495546B1
Under nitrogen, to a solution of N-benzyl-(3-isopropoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (258 mg) and (2S)-3-phenoxy-1,2-epoxypropane (138 mg) in dichloromethane (5 ml) was added ytterbium(III) trifluoromethanesulfonate (52 mg) at room temperature, and the mixture was stirred at the same temperature for 60 hours. The resulting mixture was poured into saturated aqueous sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=10:1 to 5:1) to give (2S)-1-[N-benzyl-N-(3-isopropoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-amino]-3-phenoxy-2-propanol (303 mg)

reactant | N-benzyl-(3-isopropoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 258 mg | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=CC(=C2)OC(C)C | C21H27NO
reactant | (2S)-3-phenoxy-1,2-epoxypropane | 138 mg | O(C1=CC=CC=C1)C[C@@H]1CO1 | C9H10O2
reactant | ytterbium(III) trifluoromethanesulfonate | 52 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2S)-1-[N-benzyl-N-(3-isopropoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-amino]-3-phenoxy-2-propanol | 303 mg | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=CC(=C2)OC(C)C)C[C@@H](COC2=CC=CC=C2)O | C30H37NO3
